US04471116
To a stirred slurry of (S)-1-(4-benzyloxyphenoxy)-3-[N-mesyl-(1-methylethyl)amino]-2-propanol (78.7 g) in 300 ml toluene was added isopropenyl methyl ether (29 ml) followed by 0.1 ml phosphorus oxychloride. The reaction mixture was stirred for 2 hours at room temperature to ensure formation of the isopropenyl methylether derivative, whereupon 1 ml of triethylamine was added to neutralize the acid catalyst. The solution was then added dropwise over 30 minutes to a stirred solution of sodium bis-(2-methoxyethoxy) aluminum hydride (70% in benzene; 286 ml) and 300 ml toluene which was maintained at 80° throughout the addition. After stirring for an additional 2 hours at 80°, the reaction was cooled and excess reagent was destroyed by the dropwise addition of 30 ml 2N sodium hydroxide and when the reaction had subsided, 300 ml 2N sodium hydroxide were added. The layers were separated and the organic layer was washed in turn with 1N sodium hydroxide (2×) and with brine (2×). The toluene layer was then diluted with ether (300 ml) and extracted using 800 ml 0.5N hydrochloric acid. The acidic extract was washed with ether and the organic layers were backwashed with 0.5N hydrochloric acid (100 ml). The stirred aqueous extracts were basified using 100 ml 10N sodium hydroxide and the resulting solids were removed by filtration and dried. Crystallization of the crude material from ethyl acetate-hexane furnished 54.7 g of (S)-1-(4-benzyloxyphenoxy)-3-(1-methylethyl)amino-2-propanol, mp 94°-96°.

reactant | (S)-1-(4-benzyloxyphenoxy)-3-[N-mesyl-(1-methylethyl)amino]-2-propanol | 78.7 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CN(S(=O)(=O)C)C(C)C)O)C=C1 | C20H27NO5S
reactant | isopropenyl methyl ether | 29 ml | COC(=C)C | C4H8O
reactant | phosphorus oxychloride | 0.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | isopropenyl methylether | C(=C)(C)OC | C4H8O
reactant | sodium bis-(2-methoxyethoxy) aluminum hydride | 286 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | (S)-1-(4-benzyloxyphenoxy)-3-(1-methylethyl)amino-2-propanol | 54.7 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNC(C)C)O)C=C1 | C19H25NO3
